US07087601B2
Utilizing the general procedure outlined in the synthesis of 2-[4-(6-bromopyridin-2-yl)-3-methoxyphenyl]-1,3-benzoxazole, 2-[3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazole (100 mg, 0.29 mmol) was reacted with 5-bromo-2-chloropyridine (55 mg, 0.29 mmol) and Na2CO3 (90 mg, 0.86 mmol) in DME (2 mL), and H2O (2 mL) to afford the desired 2-[4-(6-chloropyridin-3-yl)-3-methoxyphenyl]-1,3-benzoxazole as a colorless solid: 1H NMR (CDCl3, 300 MHz) δ 8.59 (d, 1H), 7.85–7.66 (m, 3H), 7.44–7.78 (m, 1H), 7.56–7.60 (m, 1H), 7.48–7.45 (d, 1H), 7.42–7.38 (m, 3H), 3.98 (s, 3H). MS (ESI) 337 (M+H)+.

reactant | 2-[4-(6-bromopyridin-2-yl)-3-methoxyphenyl]-1,3-benzoxazole | BrC1=CC=CC(=N1)C1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)OC | C19H13BrN2O2
reactant | 2-[3-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-benzoxazole | 0.29 mmol, 100 mg | COC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)C=1OC2=C(N1)C=CC=C2 | C20H22BNO4
reactant | 5-bromo-2-chloropyridine | 0.29 mmol, 55 mg | BrC=1C=CC(=NC1)Cl | C5H3BrClN
reactant | Na2CO3 | 0.86 mmol, 90 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | H2O | 2 mL | O | H2O
product | 2-[4-(6-chloropyridin-3-yl)-3-methoxyphenyl]-1,3-benzoxazole | ClC1=CC=C(C=N1)C1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)OC | C19H13ClN2O2
